US07479502B2
5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-biphenyl-3-carboxylic acid hydrochloride (100 mg, 0.226 mmol), prepared as in Reference 23, O-(7-azabenzotrizol-1-yl)-1,2,3,3-tetramethyluroniumhexafluorophosphate monohydrate (37 mg, 0.242 mmol) and (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride (46 mg, 0.237 mmol) were dissolved in anhydrous N,N-dimethylformamide (10 mL). The mixture was stirred at room temperature for 1 hour and then 4-aminomethylpyridine (27 mg, 0.248 mmol) was added to the mixture. The mixture was stirred at ambient temperature for 18 hours and then concentrated to a gum under high vacuum. The residue was dissolved in 5% acetonitrile/95% 20 mM hydrochloric acid (10 mL) and product purified via preparative C18 reverse phase HPLC (5% to 35% acetonitrile gradient, 20 mM HCl aqueous to give 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-N-pyridin-4-ylmethyl-biphenyl-3-carboxamide hydrochloride (50 mg) as a tan powder.

reactant | 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-biphenyl-3-carboxylic acid hydrochloride | 0.226 mmol, 100 mg | Cl.C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=C(C=CC(=C2)F)O)C(=O)O)C=C1
reactant | (3-dimethylaminopropyl)ethylcarbodiimide hydrochloride | 0.237 mmol, 46 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-aminomethylpyridine | 0.248 mmol, 27 mg | NCC1=CC=NC=C1 | C6H8N2
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-(5-carbamimidoyl-1H-benzoimidazol-2-yl)-5′-fluoro-6,2′-dihydroxy-N-pyridin-4-ylmethyl-biphenyl-3-carboxamide hydrochloride | 50 mg | Cl.C(N)(=N)C1=CC2=C(NC(=N2)C=2C=C(C=C(C2O)C2=C(C=CC(=C2)F)O)C(=O)NCC2=CC=NC=C2)C=C1 | InChI=1S/C27H21FN6O3.ClH/c28-17-2-4-23(35)18(12-17)19-9-16(27(37)32-13-14-5-7-31-8-6-14)10-20(24(19)36)26-33-21-3-1-15(25(29)30)11-22(21)34-26;/h1-12,35-36H,13H2,(H3,29,30)(H,32,37)(H,33,34);1H
